US05760050
8-Methoxy-3-pyridin-4-ylmethyl-1,2,3,4-tetrahydro-chromeno[3 4-c]pyridin-5-one
Prepared by the procedure of Example 3 from 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one and 4-pyridinecarboxaldehyde. Yield 53%; mp 119°-122° C.

reactant | 8-methoxy-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | COC=1C=CC2=C(C1)OC(C=1CNCCC12)=O | C13H13NO3
reactant | 4-pyridinecarboxaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
product | 8-Methoxy-3-pyridin-4-ylmethyl-1,2,3,4-tetrahydro-chromeno[3 4-c]pyridin-5-one | Yield 53% | COC=1C=CC2=C(C1)OC(C=1CN(CCC12)CC1=CC=NC=C1)=O | C19H18N2O3
